US05478820
4-Chloro-3-nitrobenzoic acid (5.84 g, 29 mM), cuprous cyanide (5.2 g, 58 mM), cuprous chloride (0.96 g, 9.7 mM), and quinoline (6.9 ml, 58 mM) were heated under an argon atmosphere at 180° for 3.5 hours. After cooling, the mixture was dissolved in concentrated hydrochloric acid (60 ml), diluted with water (80 ml), and extracted with ethyl acetate (3×100 ml). The combined organic layers were washed with aqueous NaH2PO4, brine, and dried over MgSO4. Crude product was purified by chromatography on silica, eluting with a mixture of dichloromethane/acetic acid (98:2), to give 4-cyano-3-nitrobenzoic acid (2.65 g, 48%). Nmr (DMSO-d6): δ8.31 (d, 1H); 8.41 (dd, 1H); 8.68 (d, 1H).

reactant | 4-Chloro-3-nitrobenzoic acid | 29 mM, 5.84 g | ClC1=C(C=C(C(=O)O)C=C1)[N+](=O)[O-] | C7H4ClNO4
reactant | quinoline | 58 mM, 6.9 ml | N1=CC=CC2=CC=CC=C12 | C9H7N
solvent | hydrochloric acid | 60 ml | Cl | ClH
solvent | water | 80 ml | O | H2O
product | 4-cyano-3-nitrobenzoic acid | 2.65 g, 48% | C(#N)C1=C(C=C(C(=O)O)C=C1)[N+](=O)[O-] | C8H4N2O4
